US06297261B1
3-Trifluoromethylphenyl-4-(4-carboxyphenyl)-2-(5-tetrazolyl)phenyl urea
To a suspension of 3-trifluoromethylphenyl-4-(4-ethoxycarbonylphenyl) -2-(5-tetrazolyl)phenyl urea (4.5 g, 9 mmol) in 96% ethanol was added sodium hydroxide (4 N, 25 mL). The reaction was heated to reflux for 30 min, then cooled to room temperature and acidified with hydrochloric acid. The precipitate was filtered off to give 3.8 g of the desired material. M.p. 300° C. (dec.).

reactant | 3-trifluoromethylphenyl-4-(4-ethoxycarbonylphenyl) -2-(5-tetrazolyl)phenyl urea | 9 mmol, 4.5 g | FC(C=1C=C(C=CC1)N(C(=O)N)C1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=NN=NN1)(F)F | C24H19F3N6O3
reactant | sodium hydroxide | 4 N, 25 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 3-Trifluoromethylphenyl-4-(4-carboxyphenyl)-2-(5-tetrazolyl)phenyl urea | 3.8 g | FC(C=1C=C(C=CC1)N(C(=O)N)C1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)O)C1=NN=NN1)(F)F | C22H15F3N6O3
